US05112966
(3S,4S)-4-(1-Methylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone (200 g) was dissolved in ethyl acetate (3 liters), and a solution of chlorine in carbon tetrachloride (3.85%, 870 g) was added dropwise thereto at room temperature over a period of 15 minutes, followed by stirring for 1 hour. Water (1 liter) and then 10% aqueous sodium thiosulfate (50 ml) were poured into the reaction mixture, which was stirred for 0.5 hour and allowed to stand. The organic layer was washed successively with saturated sodium bicarbonate and brine and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave (3S,4S)-4-(1-chloromethylethenyl)- 3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone. m.p., 84°-85° C.

reactant | (3S,4S)-4-(1-Methylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | 200 g | CC(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C33H37NO6
reactant | chlorine | ClCl | Cl2
reactant | Water | 1 liter | O | H2O
reactant | sodium thiosulfate | 50 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 3 liters | C(C)(=O)OCC | C4H8O2
solvent | carbon tetrachloride | 870 g | C(Cl)(Cl)(Cl)Cl | CCl4
product | (3S,4S)-4-(1-chloromethylethenyl)- 3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | ClCC(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C33H36ClNO6
